*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 4.3
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_0 1 2 3 4 REF
C_C1 1 REF 0.9909593298643pf
C_C2 1 2 13.068527668352pf
C_C3 1 3 0.0167101817299pf
C_C4 1 4 0.1852048897007pf
C_C5 2 REF 1.1574712048189pf
C_C6 2 3 0.097276617307pf
C_C7 3 REF 0.3418004733496pf
C_C8 3 4 6.9292306021006pf
C_C9 4 REF 0.3437327271047pf
L_L1 3 5 1.3157778131554nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_1 1 2 3 4 REF
C_C1 1 REF 0.7953868873898pf
C_C2 1 2 13.329696837802pf
C_C3 1 3 0.0165762355883pf
C_C4 1 4 0.1860306985584pf
C_C5 2 REF 0.9629691445304pf
C_C6 2 3 0.0971401969738pf
C_C7 3 REF 0.3420886669263pf
C_C8 3 4 5.1423669807075pf
C_C9 4 REF 0.3427868119817pf
R_R1 1 2 747.12229221754
L_L1 3 5 1.3172572217217nh
R_RL1 5 4 3.0779041765e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_2 1 2 3 4 REF
C_C1 1 REF 0.6557307565866pf
C_C2 1 2 13.601588037696pf
C_C3 1 3 0.0163243690134pf
C_C4 1 4 0.1876589126816pf
C_C5 2 REF 0.8255022429238pf
C_C6 2 3 0.0972191383603pf
C_C7 3 REF 0.3422796858035pf
C_C8 3 4 3.8942708097903pf
C_C9 4 REF 0.3418449746792pf
R_R1 1 2 749.25785763091
L_L1 3 5 1.318489505569nh
R_RL1 5 4 1.9393875391e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_3 1 2 3 4 REF
C_C1 1 REF 0.5332579025274pf
C_C2 1 2 13.969065998012pf
C_C3 1 3 0.0158404829608pf
C_C4 1 4 0.1906686292192pf
C_C5 2 REF 0.7070869169341pf
C_C6 2 3 0.0975723785183pf
C_C7 3 REF 0.3424339128812pf
C_C8 3 4 2.8199202307706pf
C_C9 4 REF 0.3407350922871pf
R_R1 1 2 777.29058345534
L_L1 3 5 1.3197367663764nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_4 1 2 3 4 REF
C_C1 1 REF 0.4335327100648pf
C_C2 1 2 14.449805381898pf
C_C3 1 3 0.0150397182605pf
C_C4 1 4 0.1953421189708pf
C_C5 2 REF 0.6136123054763pf
C_C6 2 3 0.0982837585743pf
C_C7 3 REF 0.3425529562874pf
C_C8 3 4 1.9585514296882pf
C_C9 4 REF 0.3395760795197pf
R_R1 1 2 843.80452351445
L_L1 3 5 1.3209831499384nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_5 1 2 3 4 REF
C_C1 1 REF 0.3666452500042pf
C_C2 1 2 14.983627005233pf
C_C3 1 3 0.0139879374221pf
C_C4 1 4 0.2010480230692pf
C_C5 2 REF 0.5542697764468pf
C_C6 2 3 0.0992798092946pf
C_C7 3 REF 0.3426403378712pf
C_C8 3 4 1.3882917712531pf
C_C9 4 REF 0.3386390538991pf
R_R1 1 2 954.04130911867
L_L1 3 5 1.3219895262693nh
R_RL1 5 4 -2.070882556e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_6 1 2 3 4 REF
C_C1 1 REF 0.3203475094364pf
C_C2 1 2 15.573995584556pf
C_C3 1 3 0.0126825415386pf
C_C4 1 4 0.2076576622392pf
C_C5 2 REF 0.5166292117662pf
C_C6 2 3 0.1005359328837pf
C_C7 3 REF 0.3427232728569pf
C_C8 3 4 0.9974614920358pf
C_C9 4 REF 0.3379333532261pf
L_L1 3 5 1.3228157906175nh
R_RL1 5 4 -3.175395898e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_7 1 2 3 4 REF
C_C1 1 REF 0.2830535142757pf
C_C2 1 2 16.343337085848pf
C_C3 1 3 0.0108162193167pf
C_C4 1 4 0.2164784632985pf
C_C5 2 REF 0.4908183233517pf
C_C6 2 3 0.1023346292529pf
C_C7 3 REF 0.3428326721962pf
C_C8 3 4 0.685379120796pf
C_C9 4 REF 0.3373878705986pf
L_L1 3 5 1.3235944392381nh
R_RL1 5 4 -4.228872911e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_8 1 2 3 4 REF
C_C1 1 REF 0.2540586261446pf
C_C2 1 2 17.321959215779pf
C_C3 1 4 0.2278076449903pf
C_C4 2 REF 0.4765483472421pf
C_C5 2 3 0.1047990285744pf
C_C6 3 REF 0.3429757990693pf
C_C7 3 4 0.4448339462458pf
C_C8 4 REF 0.3370648834496pf
L_L1 3 5 1.324328398957nh
R_RL1 5 4 -5.173997852e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_9 1 2 3 4 REF
C_C1 1 REF 0.2323389674571pf
C_C2 1 2 18.577299573615pf
C_C3 1 4 0.2423453790327pf
C_C4 2 REF 0.4737651084706pf
C_C5 2 3 0.1081854339604pf
C_C6 3 REF 0.3431461102704pf
C_C7 3 4 0.2672882581466pf
C_C8 4 REF 0.3369978234526pf
L_L1 3 5 1.3249788559862nh
R_RL1 5 4 -5.874522822e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_10 1 2 3 4 REF
C_C1 1 REF 0.2159105886126pf
C_C2 1 2 20.171328642251pf
C_C3 1 4 0.2606897681911pf
C_C4 2 REF 0.4813071951518pf
C_C5 2 3 0.1127587774632pf
C_C6 3 REF 0.3433118471633pf
C_C7 3 4 0.1384974291144pf
C_C8 4 REF 0.3371512658882pf
L_L1 1 5 90.968107492533nh
R_RL1 5 2 15.394439918878
L_L2 3 6 1.3255593123363nh
R_RL2 6 4 -6.259012298e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_11 1 2 3 4 REF
C_C1 1 REF 0.2026594426676pf
C_C2 1 2 22.239145490776pf
C_C3 1 4 0.2842208286778pf
C_C4 2 REF 0.4988250656079pf
C_C5 2 3 0.1190518416398pf
C_C6 3 REF 0.3434240924972pf
C_C7 3 4 0.0477322355494pf
C_C8 4 REF 0.3374668467477pf
L_L1 1 5 57.218995155337nh
R_RL1 5 2 9.0498348300914
L_L2 3 6 1.3260126546858nh
R_RL2 6 4 -6.212957851e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_12 1 2 3 4 REF
C_C1 1 REF 0.1899130380637pf
C_C2 1 2 24.943557360839pf
C_C3 1 4 0.3145750259275pf
C_C4 2 REF 0.5256021571224pf
C_C5 2 3 0.1277070365106pf
C_C6 3 REF 0.3434323074137pf
C_C7 4 REF 0.3378625463741pf
L_L1 1 5 35.875941654477nh
R_RL1 5 2 4.968061472068
L_L2 3 6 1.3262391893387nh
R_RL2 6 4 -5.691944739e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_13 1 2 3 4 REF
C_C1 1 REF 0.1741908721328pf
C_C2 1 2 28.632565421442pf
C_C3 1 4 0.3553562901174pf
C_C4 2 REF 0.562482341858pf
C_C5 2 3 0.1400175598576pf
C_C6 3 REF 0.3432901013092pf
C_C7 4 REF 0.3382809358906pf
R_R1 1 2 -962.1049761919
L_L1 1 5 22.226663707071nh
R_RL1 5 2 2.5471441929433
L_L2 3 6 1.3260114647903nh
R_RL2 6 4 -4.67441364e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_14 1 2 3 4 REF
C_C1 1 REF 0.1507126202686pf
C_C2 1 2 33.836652380769pf
C_C3 1 4 0.4121016110948pf
C_C4 2 REF 0.6113324975201pf
C_C5 2 3 0.1579020492106pf
C_C6 3 REF 0.3429736301666pf
C_C7 4 REF 0.3387012175188pf
R_R1 1 2 -721.3054627063
L_L1 1 5 13.384277966777nh
R_RL1 5 2 1.18315612897
L_L2 3 6 1.3256295590672nh
R_RL2 6 4 -3.206551901e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_15 1 2 3 4 REF
C_C1 1 REF 0.1105861395435pf
C_C2 1 2 41.749725639006pf
C_C3 1 4 0.4974300834474pf
C_C4 2 REF 0.6787091139728pf
C_C5 2 3 0.1856053641692pf
C_C6 3 REF 0.3424564529443pf
C_C7 4 REF 0.3391719274758pf
R_R1 1 2 -544.0657237353
L_L1 1 5 7.5273825089819nh
R_RL1 5 2 0.3638377941888
L_L2 3 6 1.3249788193066nh
R_RL2 6 4 -1.453293225e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_16 1 2 3 4 REF
C_C1 1 REF 0.030077309946pf
C_C2 1 2 55.910261914865pf
C_C3 1 4 0.6490143796294pf
C_C4 2 REF 0.7875490383544pf
C_C5 2 3 0.2356190667358pf
C_C6 3 REF 0.3416471345206pf
C_C7 4 REF 0.3399141209794pf
R_R1 1 2 -392.185155833
L_L1 1 5 4.5706953667198nh
R_RL1 5 2 0.8476305526874
L_L2 3 6 1.3238034445406nh
R_RL2 6 4 1.0095316611e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_17 1 2 3 4 REF
C_C1 1 2 86.075391536352pf
C_C2 1 4 0.9707951864803pf
C_C3 2 REF 1.0008725256049pf
C_C4 2 3 0.3423530587311pf
C_C5 3 REF 0.3403359654941pf
C_C6 4 REF 0.3415990780178pf
R_R1 1 2 -266.7661957166
L_L1 1 5 1.8814842242944nh
R_RL1 5 2 0.0986911848681
L_L2 1 6 80.442534083837nh
R_RL2 6 3 0.0385397225139
L_L3 1 7 79.675663653364nh
R_RL3 7 4 0.0390500722621
L_L4 2 8 80.503291081805nh
R_RL4 8 3 0.0073594541178
L_L5 2 9 79.739056578164nh
R_RL5 9 4 0.0071309379231
L_L6 3 10 1.3213440246804nh
R_RL6 10 4 2.8389933107e-5
Kn_K1 L_L1 L_L2 0.0739982976215
Kn_K2 L_L1 L_L3 0.074245913905
Kn_K3 L_L1 L_L4 -0.07890709655
Kn_K4 L_L1 L_L5 -0.079391926567
Kn_K5 L_L2 L_L3 0.9917590708532
Kn_K6 L_L2 L_L4 0.9883098993805
Kn_K7 L_L2 L_L5 0.9799980116028
Kn_K8 L_L2 L_L6 -0.101273140541
Kn_K9 L_L3 L_L4 0.9800342256451
Kn_K10 L_L3 L_L5 0.9881976283878
Kn_K11 L_L3 L_L6 0.0270196721743
Kn_K12 L_L4 L_L5 0.9917653689492
Kn_K13 L_L4 L_L6 -0.101107129614
Kn_K14 L_L5 L_L6 0.0271373281278
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_18 1 2 3 4 REF
C_C1 1 2 175.91098765062pf
C_C2 1 4 1.928526645373pf
C_C3 2 REF 1.6067003477927pf
C_C4 2 3 0.65963304461pf
C_C5 3 REF 0.3375332885736pf
C_C6 4 REF 0.3473159274798pf
R_R1 1 2 -193.7585342621
L_L1 1 5 90.003820580954nh
R_RL1 5 REF 2.3315354604469
L_L2 1 6 0.6278130295978nh
R_RL2 6 2 0.0173574085349
L_L3 1 7 30.794729207163nh
R_RL3 7 3 0.0127638260717
L_L4 1 8 30.083624780098nh
R_RL4 8 4 0.0128972186721
L_L5 2 9 89.410874229949nh
R_RL5 9 REF 2.3339480053114
L_L6 2 10 30.881562992058nh
R_RL6 10 3 0.0014233171732
L_L7 2 11 30.174124332793nh
R_RL7 11 4 0.0013369781106
L_L8 3 12 1.3141481714996nh
R_RL8 12 4 4.3361260676e-5
Kn_K1 L_L1 L_L2 0.0811997027698
Kn_K2 L_L1 L_L5 0.996506213503
Kn_K3 L_L2 L_L3 0.0615172977947
Kn_K4 L_L2 L_L4 0.0618183620862
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.081151521669
Kn_K7 L_L2 L_L7 -0.082518434088
Kn_K8 L_L3 L_L4 0.9784802937872
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9898218180295
Kn_K11 L_L3 L_L7 0.9681383389835
Kn_K12 L_L3 L_L8 -0.159180124527
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9682894615898
Kn_K15 L_L4 L_L7 0.9895823228163
Kn_K16 L_L4 L_L8 0.0479547434454
Kn_K17 L_L6 L_L7 0.9785419250464
Kn_K18 L_L6 L_L8 -0.158668457629
Kn_K19 L_L7 L_L8 0.0481738441242
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_19 1 2 3 4 REF
C_C1 1 2 929.95525673064pf
C_C2 1 4 9.9727852510886pf
C_C3 2 REF 6.6148921509233pf
C_C4 2 3 3.3166273672077pf
C_C5 3 REF 0.3191473176706pf
C_C6 4 REF 0.3998853418312pf
R_R1 1 2 16.559297676299
L_L1 1 5 10.057747319419nh
R_RL1 5 REF 0.0084527809317
L_L2 1 6 0.0808387782014nh
R_RL2 6 2 -5.77059234e-3
L_L3 1 7 5.1761484202393nh
R_RL3 7 3 -1.924317245e-3
L_L4 1 8 4.5302501552009nh
R_RL4 8 4 -2.450524873e-3
L_L5 2 9 10.005598569776nh
R_RL5 9 REF 0.0047780250976
L_L6 2 10 5.1946048239117nh
R_RL6 10 3 -7.112863977e-4
L_L7 2 11 4.553408832144nh
R_RL7 11 4 -4.912009761e-4
L_L8 3 12 15.144329783165nh
R_RL8 12 REF -2.583169308e-3
L_L9 3 13 1.2551557127171nh
R_RL9 13 4 2.1089451217e-5
L_L10 4 14 14.491110491839nh
R_RL10 14 REF -2.567140887e-3
Kn_K1 L_L1 L_L2 0.0737429804459
Kn_K2 L_L1 L_L5 0.9959741870211
Kn_K3 L_L1 L_L8 0.81131084263
Kn_K4 L_L1 L_L10 0.8290919110323
Kn_K5 L_L2 L_L3 0.0482190528298
Kn_K6 L_L2 L_L4 0.0476568195877
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.076614690629
Kn_K9 L_L2 L_L7 -0.085706650571
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8726219522345
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9922066911415
Kn_K15 L_L3 L_L7 0.8639752330238
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.372917091747
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8651252689764
Kn_K21 L_L4 L_L7 0.9911038580916
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1277500137726
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8105544810565
Kn_K26 L_L5 L_L10 0.8281226443866
Kn_K27 L_L6 L_L7 0.8731307513123
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.37133324252
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.128408199959
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2188567225267
Kn_K35 L_L8 L_L10 0.9578795179681
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_20 1 2 3 4 REF
C_C1 1 REF 11.682772386092pf
C_C2 1 3 6.0384755508222pf
C_C3 2 4 18.138035922824pf
C_C4 3 REF 0.3798712665771pf
C_C5 4 REF 0.2132326207172pf
R_R1 1 2 52.983341226577
L_L1 1 5 4.477975535296nh
R_RL1 5 REF -0.010218087463
L_L2 1 6 0.4128469701536nh
R_RL2 6 2 -0.030789102437
L_L3 1 7 2.8571993690708nh
R_RL3 7 3 -0.019747367604
L_L4 1 8 2.3230480979794nh
R_RL4 8 4 -0.024452106142
L_L5 2 9 4.870927761986nh
R_RL5 9 REF -0.058370935598
L_L6 2 10 2.7339258421846nh
R_RL6 10 3 -4.052364866e-4
L_L7 2 11 2.1201253922277nh
R_RL7 11 4 1.0452053033e-4
L_L8 3 12 7.3429248366459nh
R_RL8 12 REF -0.044446763205
L_L9 3 13 1.1819637927282nh
R_RL9 13 4 -1.663703744e-4
L_L10 4 14 6.818842846903nh
R_RL10 14 REF -0.050851817295
Kn_K1 L_L1 L_L5 0.9566855168268
Kn_K2 L_L1 L_L8 0.7815953488256
Kn_K3 L_L1 L_L10 0.8119863964157
Kn_K4 L_L2 L_L3 0.2468127507296
Kn_K5 L_L2 L_L4 0.3143870513584
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.136282728109
Kn_K8 L_L2 L_L7 -0.112190819354
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0570104763641
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7759687548143
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9263855002629
Kn_K15 L_L3 L_L7 0.7033419008561
Kn_K16 L_L3 L_L8 0.9784813487193
Kn_K17 L_L3 L_L9 -0.46692168982
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6710998487542
Kn_K21 L_L4 L_L7 0.9080303444081
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1954736197487
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.03588839153
Kn_K26 L_L5 L_L7 0.0267943069286
Kn_K27 L_L5 L_L8 0.7925644719964
Kn_K28 L_L5 L_L9 -0.018695792741
Kn_K29 L_L5 L_L10 0.8302419173805
Kn_K30 L_L6 L_L7 0.7626212102154
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.499486635373
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1794569797123
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2895503258238
Kn_K38 L_L8 L_L10 0.9171666469908
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_21 1 2 3 4 REF
C_C1 1 2 327.2245625518pf
C_C2 1 4 3.5331631051823pf
C_C3 2 REF 2.5982807091137pf
C_C4 2 3 1.1974288173115pf
C_C5 3 REF 0.332247152224pf
C_C6 4 REF 0.3556395997046pf
R_R1 1 2 -23.99578133329
L_L1 1 5 22.902079925467nh
R_RL1 5 REF -0.394103545388
L_L2 1 6 0.1097517529659nh
R_RL2 6 2 0.0127844331115
L_L3 1 7 9.6549193340375nh
R_RL3 7 3 0.0102720307832
L_L4 1 8 8.9783838956766nh
R_RL4 8 4 0.0106745097789
L_L5 2 9 22.709673043612nh
R_RL5 9 REF -0.370643066574
L_L6 2 10 9.7188067727557nh
R_RL6 10 3 3.5480274629e-4
L_L7 2 11 9.0498858420814nh
R_RL7 11 4 2.9373588463e-4
L_L8 3 12 32.376923149906nh
R_RL8 12 REF -0.399119403101
L_L9 3 13 1.2872069852134nh
R_RL9 13 4 1.7146483374e-5
L_L10 4 14 31.691040863611nh
R_RL10 14 REF -0.397946919522
Kn_K1 L_L1 L_L2 0.0952931796296
Kn_K2 L_L1 L_L5 0.99760265949
Kn_K3 L_L1 L_L8 0.837739339198
Kn_K4 L_L1 L_L10 0.8465828451158
Kn_K5 L_L2 L_L3 0.0222774178662
Kn_K6 L_L2 L_L4 0.0192661274646
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.084063129368
Kn_K9 L_L2 L_L7 -0.090934692036
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010129357684
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9315332170572
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.994340427361
Kn_K16 L_L3 L_L7 0.9253926685324
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.278519757299
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9264190531143
Kn_K22 L_L4 L_L7 0.9939200586575
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.0898161448903
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8365547986809
Kn_K27 L_L5 L_L10 0.8452429033053
Kn_K28 L_L6 L_L7 0.9320094536881
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.276526392206
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.0905761196064
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1528180868341
Kn_K36 L_L8 L_L10 0.9799648843634
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_22 1 2 3 4 REF
C_C1 1 2 65.885378378233pf
C_C2 1 4 0.7425459474704pf
C_C3 2 REF 0.8576668798433pf
C_C4 2 3 0.2765630606089pf
C_C5 3 REF 0.3380478283604pf
C_C6 4 REF 0.3366159122645pf
R_R1 1 2 -177.604310636
L_L1 1 5 0.6030930060849nh
R_RL1 5 2 -0.170123901217
L_L2 1 6 43.504880007743nh
R_RL2 6 3 0.0547248135945
L_L3 1 7 42.716453994708nh
R_RL3 7 4 0.0521122942127
L_L4 2 8 44.103497412723nh
R_RL4 8 3 0.0296858592351
L_L5 2 9 43.319263339779nh
R_RL5 9 4 0.0303132308782
L_L6 3 10 1.3139909775234nh
R_RL6 10 4 -3.340199419e-5
Kn_K1 L_L1 L_L4 -0.116504088601
Kn_K2 L_L1 L_L5 -0.117963994129
Kn_K3 L_L2 L_L3 0.9848014306538
Kn_K4 L_L2 L_L4 0.9931392192013
Kn_K5 L_L2 L_L5 0.9778738743683
Kn_K6 L_L2 L_L6 -0.139034853242
Kn_K7 L_L3 L_L4 0.9780919674425
Kn_K8 L_L3 L_L5 0.9930145762879
Kn_K9 L_L3 L_L6 0.0350753991814
Kn_K10 L_L4 L_L5 0.9850093259018
Kn_K11 L_L4 L_L6 -0.137812739296
Kn_K12 L_L5 L_L6 0.0351083086066
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_23 1 2 3 4 REF
C_C1 1 REF 0.2724270390517pf
C_C2 1 2 24.928477187333pf
C_C3 1 4 0.3053959755029pf
C_C4 2 REF 0.5883823986488pf
C_C5 2 3 0.1307055038362pf
C_C6 3 REF 0.3384410633164pf
C_C7 4 REF 0.3330727732174pf
R_R1 1 2 -567.6522869995
L_L1 1 5 0.8493199339001nh
R_RL1 5 2 0.5397597205429
L_L2 3 6 1.3183808172715nh
R_RL2 6 4 7.1226611908e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_24 1 2 3 4 REF
C_C1 1 REF 0.3651603850293pf
C_C2 1 2 12.069232349109pf
C_C3 1 3 0.0436667452507pf
C_C4 1 4 0.1703703548249pf
C_C5 2 REF 0.518410548256pf
C_C6 2 3 0.082669009901pf
C_C7 3 REF 0.3372867707837pf
C_C8 4 REF 0.3306600118075pf
L_L1 1 5 1.2054033640774nh
R_RL1 5 2 0.08494859592
L_L2 3 6 1.3168277678186nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_25 1 2 3 4 REF
C_C1 1 REF 0.4068923284341pf
C_C2 1 2 7.2255772837482pf
C_C3 1 3 0.0671998507102pf
C_C4 1 4 0.1185774309706pf
C_C5 2 REF 0.4997854214355pf
C_C6 2 3 0.0627571454428pf
C_C7 2 4 0.020824591238pf
C_C8 3 REF 0.3355190771685pf
C_C9 4 REF 0.3282502394692pf
L_L1 1 5 1.7273084683277nh
R_RL1 5 2 4.8673175381e-4
L_L2 3 6 1.3145225305542nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_26 1 2 3 4 REF
C_C1 1 REF 0.4225048809399pf
C_C2 1 2 5.7792880353487pf
C_C3 1 3 0.0772832123667pf
C_C4 1 4 0.1013070670288pf
C_C5 2 REF 0.496392915001pf
C_C6 2 3 0.0552792981871pf
C_C7 2 4 0.0408180442801pf
C_C8 3 REF 0.3343310077222pf
C_C9 4 REF 0.3267740662984pf
L_L1 1 5 1.8639630690536nh
R_RL1 5 2 1.0110636571e-4
L_L2 3 6 1.3135065006727nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param64_26

